US07795236B2
3-(3-Chloropropoxy)-4-phenylbenzonitrile
To a solution of 3-hydroxy-4-phenylbenzonitrile (3.0 g) in N,N-dimethylformamide (30.7 mL) was added potassium carbonate (6.37 g). Then 1-bromo-3-chloropropane (3.6 mL) was added, and the resulting mixture was stirred at 50° C. for 4 hours. The reaction mixture was partitioned between diethyl ether (45 mL) and water (10 mL). The organic layer was washed with water (10 mL×2) and brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=15/1) to give the title compound (4.08 g).

reactant | 3-hydroxy-4-phenylbenzonitrile | 3.0 g | OC=1C=C(C#N)C=CC1C1=CC=CC=C1 | C13H9NO
reactant | potassium carbonate | 6.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 3.6 mL | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 30.7 mL | CN(C=O)C | C3H7NO
product | 3-(3-Chloropropoxy)-4-phenylbenzonitrile | 4.08 g | ClCCCOC=1C=C(C#N)C=CC1C1=CC=CC=C1 | C16H14ClNO
